US08003006B2
(1-7) Synthesis of 2,3-difluoro-4-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxyphenol
15.7 g of 2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene was dissolved in 80 mL of THF, and 51 mL of sec-butyllithium (1.01 M hexane, a cyclohexane solution) was added dropwise thereto at an internal temperature of −45° C. or lower. Then, further stirring was continued for 30 min. To this solution, 5.9 g of trimethyl borate was added dropwise at an internal temperature of −40° C. or lower, and further stirring was continued for 30 min, and then the temperature was increased to 0° C. Then, 16 mL of water was added dropwise, and then 16 mL of 15% hydrogen peroxide solution was further added dropwise for 30 min. The stirring was continued for 3 hours. Water and toluene were added thereto, and the organic layer was fractioned while the aqueous layer was extracted with toluene. The organic layers were combined, washed with saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by column chromatography and recrystallization, to thereby obtain 2,3-difluoro-4-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxyphenol.

reactant | 2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene | 15.7 g | FC1=C(C=CC=C1F)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C | C21H28F2O
reactant | sec-butyllithium | 51 mL | C(C)(CC)[Li]
reactant | trimethyl borate | 5.9 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 16 mL | OO | H2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
solvent | water | 16 mL | O | H2O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | hexane | 1.01 M | CCCCCC | C6H14
product | 2,3-difluoro-4-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxyphenol | FC1=C(C=CC(=C1F)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C)O | C21H28F2O2
